US03957771
To a suspension of 14.9 g of penicillin-G-potassium in 60 ml of absolute methylene chloride, 5.06 g (=40 mmols) of methylethylphosphinic acid chloride and 10 ml of dimethylaniline were added in the same manner as indicated in Example 1. The mixture was stirred for 1 hour and the solution of the mixed anhydride so prepared was converted at -5°C with 9.0 g (= 43 mmols) of phosphorus of pentachloride into the imidochloride. After addition of 60 ml of n-butanol and 2 ml of N,N-dimethylaniline, the mixture was stirred at -5°C for 30 minutes. 60 ml of ice water were added and the 6-aminopenicillanic acid was separated at pH 4. 6.47 g (= 76.4 % of the theory) of 6-aminopenicillanic acid were isolated in the form of colorless crystals having a melting point of 195°C (decomposition) which are identical with authentic 6-aminopenicillanic acid according to the IR-spectrum and the mixed melting point.

reactant | penicillin-G potassium | 14.9 g | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C.[K]
reactant | methylethylphosphinic acid chloride | 40 mmols, 5.06 g | CP(=O)(CC)Cl | C3H8ClOP
reactant | dimethylaniline | 10 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus | 43 mmols, 9.0 g | [P] | P
reactant | N,N-dimethylaniline | 2 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 6-aminopenicillanic acid | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
